US04863958
Under nitrogen, ethanethiol (3.1 gm; 50 mmoles) was added dropwise over 5 minutes to a mixture of 99% sodium hydride (1.2 gm; 50mmoles) in dimethylformamide (100 mL). After stirring for 15 minutes, a solution of 2-(4-methoxybenzyl)-3-methyl-4-propyl-5-hydroxybenzofuran (2.1 gm; 6.7mmoles) in dimethylformamide (DMF) (25 mL) was added in one portion. The mixture was refluxed for 1.5 hours, cooled, acidified with 20% citric acid and extracted with ether. The ether solution was washed with water, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting oil crystallised on standing at room temperature overnight. The crystals were slurried with hexane, filtered, washed with hexane, and air dried to yield 2-(4-hydroxybenzyl)-3-methyl-4-propyl-5-hydroxybenzofuran, mp. 138°-142° C.

reactant | ethanethiol | 50 mmoles, 3.1 gm | C(C)S | C2H6S
reactant | sodium hydride | 50mmoles, 1.2 gm | [H-].[Na+]
reactant | 2-(4-methoxybenzyl)-3-methyl-4-propyl-5-hydroxybenzofuran | 6.7mmoles, 2.1 gm | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3)O)CCC)C=C1 | C20H22O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 2-(4-hydroxybenzyl)-3-methyl-4-propyl-5-hydroxybenzofuran | OC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3)O)CCC)C=C1 | C19H20O3
